US08026257B2
5-Bromo-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole.
5-Bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole and 5-Bromo-7-(bromomethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole. A flask was charged with 5-bromo-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (2.0 g, 5.86 mmol), N-bromosuccinimide (1.04 g, 5.86 mmol), benzoic peroxyanhydride (0.043 g, 0.18 mmol), and carbon tetrachloride (12 mL). The reaction was heated at reflux overnight. The reaction was concentrated. The resulting residue was suspended in diethyl ether (10 mL). To this was added pentane (20 mL). After stirring for 5 min, the solid was removed by filtration and the mother liquor concentrated. The residue was purified by column chromatography (3%→8% EtOAc/Hex) to give 3 fractions. The fastest eluting fraction was concentrated to give 5-bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole (0.95 g, 39%). The slowest eluting fraction was concentrated to give 5-bromo-7-(bromomethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (420 mg, 17%). 5-Bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole: 1H-NMR (CDCl3, 500 MHz) δ 7.95 (s, 1H), 7.84 (d, J=1.5 Hz, 1H), 7.49 (d, J=1.5 Hz, 1H), 5.98 (s, 2H), 4.93 (s, 2H), 3.50 (t, J=8.2 Hz, 2H), 0.85 (t, J=8.2 Hz, 2H), <0.10 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 136.2, 133.5, 132.0, 128.4, 124.6, 123.1, 114.1, 80.4, 66.4, 29.8, 17.9, −1.4. 5-Bromo-7-(bromomethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole: 1H-NMR (CDCl3, 500 MHz) δ 8.07 (s, 1H), 7.79 (d, J=1.5 Hz, 1H), 7.41 (d, J=1.5 Hz, 1H), 5.72 (s, 2H), 4.84 (s, 2H), 3.64 (t, J=8.2 Hz, 2H), 0.93 (t, J=8.2 Hz, 2H), 0.00 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 145.6, 130.2, 129.3, 123.8, 123.4, 122.8, 115.2, 82.1, 67.9, 28.2, 18.0, −1.3.

reactant | 5-Bromo-7-(bromomethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole | BrC=1C=C2C=NN(C2=C(C1)CBr)COCC[Si](C)(C)C | C14H20Br2N2OSi
reactant | 5-Bromo-7-(bromomethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)CBr)COCC[Si](C)(C)C | C14H20Br2N2OSi
product | 5-Bromo-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C14H21BrN2OSi
